US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[(5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (66 mg) (0.1 mmol) and 47 mg (0.13 mmol) of O-[(4-fluoro-2,2-diphenyl-1,3-benzodioxol-5-yl)methyl]hydroxylamine hydrochloride are dissolved in 1 ml of absolute of dimethylacetamide. After stirring at room temperature for 20 hours the mixture is concentrated in a high vacuum at room temperature and the residue is treated with 0.45 ml of ethanol and 3 ml of water. The precipitated product is filtered off and washed with water. After drying in a high vacuum at room temperature there are obtained 98 mg of (6R,7R)-7-[(Z)-2(2-amino-4-thiazolyl)-2-[[(4-fluoro-2,2-diphenyl-1,3-benzodioxol-5-yl)methoxy]imino]acetamido]-3-[[5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[(5-(3,4-dihydroxyphenyl)-2-phenyl-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.1 mmol, 66 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC(=NC=C1C1=CC(=C(C=C1)O)O)C1=CC=CC=C1)=O | C29H22N6O7S3
reactant | O-[(4-fluoro-2,2-diphenyl-1,3-benzodioxol-5-yl)methyl]hydroxylamine hydrochloride | 0.13 mmol, 47 mg | Cl.FC1=C(C=CC=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)CON
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | O=C1CC2SCC=C(N12)C(=O)O | C7H7NO3S
